US07888376B2
At −78° C. to a solution of ethyl 3-(dibenzylamino)-2,2-difluoropropanoate (1.19 g, 3.5 mmol) in THF (20 mL) was added DIBAL-H (15 mL, 1.0 M in hexane, 15 mmol) dropwise. The temperature was maintained at below −70° C. during the addition. After the addition, the acetone-dry ice bath was removed and the reaction mixture was allowed to warm up to room temperature and stirred for 18 h. Celite was added to the reaction mixture, followed by the slow addition of H2O (5 mL), 2 N NaOH (5 mL) and H2O (5 mL). The reaction mixture was filtered, concentrated in vacuo and purified by ISCO chromatography to give 3-(dibenzylamino)-2,2-difluoropropan-1-ol as a colorless oil (810 mg, 80% yield) LCMS: RT=2.48 min [M+H] 292.15 (LCMS Method 1).

reactant | ethyl 3-(dibenzylamino)-2,2-difluoropropanoate | 3.5 mmol, 1.19 g | C(C1=CC=CC=C1)N(CC(C(=O)OCC)(F)F)CC1=CC=CC=C1 | C19H21F2NO2
reactant | DIBAL-H | 15 mmol, 1.0 M, 15 mL | CC(C)C[AlH]CC(C)C
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-(dibenzylamino)-2,2-difluoropropan-1-ol | 810 mg, 80% yield | C(C1=CC=CC=C1)N(CC(CO)(F)F)CC1=CC=CC=C1 | C17H19F2NO
